US07691860B2
4) Preparation of 2-{4-(1,1-dioxo-1λ6-isothiazolidin-2-yl)piperidin-1-yl}-5-phenyl-1-(4-methoxyphenylsulfonyl)benzimidazole
To the acetonitrile solution (3 mL) containing 4-(1,1-dioxo-1λ6-isothiazolidin-2-yl)piperidine (136 mg) were added 1-(4-methoxyphenylsulfonyl)-2-chloro-5-phenylbenzimidazole (340 mg) and diisopropylethylamine (0.41 mL), followed by stirring at room temperature for 16 hrs. The reaction mixture was diluted with ethyl acetate and water, and the organic layer was washed with an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was separated and purified on a collective thin-layer chromatograph (ethyl acetate) to give the title compound (157 mg).

reactant | acetonitrile | 3 mL | C(C)#N | C2H3N
reactant | 4-(1,1-dioxo-1λ6-isothiazolidin-2-yl)piperidine | 136 mg | O=S1(N(CCC1)C1CCNCC1)=O | C8H16N2O2S
reactant | 1-(4-methoxyphenylsulfonyl)-2-chloro-5-phenylbenzimidazole | 340 mg | COC1=CC=C(C=C1)S(=O)(=O)N1C(=NC2=C1C=CC(=C2)C2=CC=CC=C2)Cl | C20H15ClN2O3S
reactant | diisopropylethylamine | 0.41 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-{4-(1,1-dioxo-1λ6-isothiazolidin-2-yl)piperidin-1-yl}-5-phenyl-1-(4-methoxyphenylsulfonyl)benzimidazole | 157 mg | O=S1(N(CCC1)C1CCN(CC1)C1=NC2=C(N1S(=O)(=O)C1=CC=C(C=C1)OC)C=CC(=C2)C2=CC=CC=C2)=O | C28H30N4O5S2
